US07244851B2
To 2-(N-Boc-amino)-3-phenyl-thiophene (89 mg, 0.32 mmol) in dichloromethane (4 ml) at 0° C. was slowly added N-chlorosuccinimide (48 mg, 0.36 mmol), and the mixture allowed warm to ambient temperature for 16 hr. The mixture was diluted with dichloromethane, washed with water, and the organic phase concentrated in vacuo. Flash chromatography on silica gel (ethyl acetate/hexanes) yielded 2-(N-Boc-amino)-5-chloro-3-phenyl-thiophene (66 mg, 66%).

reactant | 2-(N-Boc-amino)-3-phenyl-thiophene | 0.32 mmol, 89 mg | C(=O)(OC(C)(C)C)NC=1SC=CC1C1=CC=CC=C1 | C15H17NO2S
reactant | N-chlorosuccinimide | 0.36 mmol, 48 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2-(N-Boc-amino)-5-chloro-3-phenyl-thiophene | 66 mg, 66% | C(=O)(OC(C)(C)C)NC=1SC(=CC1C1=CC=CC=C1)Cl | C15H16ClNO2S
